US07678788B2
(1,4-Diaza-bicyclo[3.2.2]-non-4-yl)-furan-2-yl-methanone hydrochloric acid salt (Compound A1)
A mixture of 1,4-Diaza-bicyclo[3.2.2]nonane (0.50 g; 4.0 mmol), 2-furoyl chloride (0.52 mg; 4.0 mmol), diisopropylethylamine (1.02 g; 7.9 mmol) and 1,2-dimethoxyethane (25 ml) was stirred at room-temperatue over night. The product precipitated as hydrochloric acid salt and was filtered and washed with 1,2-dimethoxyethane (5 ml). Yield 0.84 g (82%). Mp. 279-283° C.

reactant | 1,4-Diaza-bicyclo[3.2.2]nonane | 4.0 mmol, 0.50 g | N12CCNC(CC1)CC2 | C7H14N2
reactant | 2-furoyl chloride | 4.0 mmol, 0.52 mg | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
reactant | diisopropylethylamine | 7.9 mmol, 1.02 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,2-dimethoxyethane | 25 ml | COCCOC | C4H10O2
product | (1,4-Diaza-bicyclo[3.2.2]-non-4-yl)-furan-2-yl-methanone hydrochloric acid salt | Cl.N12CCN(C(CC1)CC2)C(=O)C=2OC=CC2 | InChI=1S/C12H16N2O2.ClH/c15-12(11-2-1-9-16-11)14-8-7-13-5-3-10(14)4-6-13;/h1-2,9-10H,3-8H2;1H
